US05763635
Ethyl (E)-4-[2-(5 6-dihydro-5,5-dimethyl-8-(phenylthio)naphthalenyl)ethenyl]benzoate (Compound A16)
To a degassed solution of 0.35 g (1.0 mmol) of 2-bromo-5,6-dihydro-5,5-dimethyl-8-(phenylthio)-naphthalene (Compound A35) and 0.34 g (1.9 mmol) of ethyl 4-vinylbenzoate in 4.0 mL of triethylamine, was added 0.066 g (0.2 mmol) of tri-o-tolylphosphine and then 0.025 g (0.1 mmol) of palladium(II) acetate. The reaction was heated at 90° C. for 2.25 h. The reaction was concentrated in vacuo. The residue was purified by flash chromatography (silica, 5% ethyl acetate in hexane), followed by recrystallization using EtOH to afford the title compound as white crystals.

reactant | 2-bromo-5,6-dihydro-5,5-dimethyl-8-(phenylthio)-naphthalene | 1.0 mmol, 0.35 g | BrC1=CC=2C(=CCC(C2C=C1)(C)C)SC1=CC=CC=C1 | C18H17BrS
reactant | ethyl 4-vinylbenzoate | 1.9 mmol, 0.34 g | C(=C)C1=CC=C(C(=O)OCC)C=C1 | C11H12O2
reactant | tri-o-tolylphosphine | 0.2 mmol, 0.066 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | triethylamine | 4.0 mL | C(C)N(CC)CC | C6H15N
catalyst | palladium(II) acetate | 0.1 mmol, 0.025 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Ethyl (E)-4-[2-(5 6-dihydro-5,5-dimethyl-8-(phenylthio)naphthalenyl)ethenyl]benzoate | CC1(C=2C=CC=C(C2C(=CC1)SC1=CC=CC=C1)/C=C/C1=CC=C(C(=O)OCC)C=C1)C | C29H28O2S
